US04347358
Using the procedure of Step E of Example 1, 0.60 g of 3-bromomethyl-7-formamido-3-cephem-4-carboxylic acid-1-oxide was reacted with 265 mg of hexamethyldisilazane to obtain 640 mg of trimethylsilyl 3-bromomethyl-7-formamido-3-cephem-4-carboxylate-1-oxide by stirring for 2.25 hours at room temperature.

reactant | 3-bromomethyl-7-formamido-3-cephem-4-carboxylic acid-1-oxide | 0.60 g | BrCC=1CS([C@H]2N(C1C(=O)O)C(C2NC=O)=O)=O | C9H9BrN2O5S
reactant | hexamethyldisilazane | 265 mg | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | trimethylsilyl 3-bromomethyl-7-formamido-3-cephem-4-carboxylate-1-oxide | 640 mg | BrCC=1CS([C@H]2N(C1C(=O)O[Si](C)(C)C)C(C2NC=O)=O)=O | C12H17BrN2O5SSi
